US08865736B2
2,6-Difluoro-3-[5-(4-pyridinyl)-1,3-benzothiazol-2-yl]methoxybenzenecarboxamide
A mixture of 3-[(5-bromo-1,3-benzothiazol-2-yl)methoxy]-2,6-difluorobenzenecarboxamide (168 mg, 0.42 mmol, 1 equiv.), 4-pyridine boronic acid (98 mg, 0.63 mmol, 1.5 equiv.) and 2M aqueous Na2CO3 solution (0.42 ml, 0.82 mmol, 2 equiv.) were suspended in dioxane (3.5 ml) and the mixture was degassed and flushed with N2. Tetrakis(triphenylphosphine)palladium(0) catalyst (37 mg, 0.031 mmol, 0.075 equiv.) was added and the reaction mixture was heated under reflux for 12 h. After cooling at r.t., the mixture was diluted with H2O and the precipitant solid was filtered and rinsed with H2O, IMS, IMS/Et2O and Et2O. Re-crystallised from CH3CN, to give the desired product as an off-white solid, 47 mg (28% yield), mp 255-258° C. HPLC-MS: m/z 398 [M+H]+, Rt=3.28 min.

reactant | 3-[(5-bromo-1,3-benzothiazol-2-yl)methoxy]-2,6-difluorobenzenecarboxamide | 0.42 mmol, 168 mg, 1 equiv. | BrC=1C=CC2=C(N=C(S2)COC=2C(=C(C(=CC2)F)C(=O)N)F)C1 | C15H9BrF2N2O2S
reactant | 4-pyridine boronic acid | 0.63 mmol, 98 mg, 1.5 equiv. | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 0.82 mmol, 2M, 0.42 ml, 2 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.031 mmol, 37 mg, 0.075 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | O | H2O
product | 2,6-Difluoro-3-[5-(4-pyridinyl)-1,3-benzothiazol-2-yl]methoxybenzenecarboxamide | 28% yield | FC1=C(C(=CC=C1OCC=1SC2=C(N1)C=C(C=C2)C2=CC=NC=C2)F)C(=O)N | C20H13F2N3O2S
